US07659263B2
To a solution of methyl 5-(2,4-bisbenzyloxyphenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate (1.12 g, 2.03 mmol) in N,N-dimethylformamide (10 ml) was added sodium hydride (60% in oil, 97 mg, 2.43 mmol) under ice-cooling and the mixture was stirred for 10 min. (2-Bromoethoxymethyl)benzene (0.53 ml, 3.24 mmol) was added and the mixture was stirred at room temperature for 4 hr. Ethyl acetate (25 ml) was added to the reaction mixture, and the organic layer was washed successively with water (20 ml×3) and saturated brine (10 ml), and dried over sodium sulfate. After filtration and concentration, the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1-2:1) to give methyl 4-(2-benzyloxyethyl)-5-(2,4-bisbenzyloxyphenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate (1.21 g, yield 87%).

reactant | methyl 5-(2,4-bisbenzyloxyphenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 2.03 mmol, 1.12 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=C(C2=C(N1)C=C(S2)C(=O)OC)C2CCCCC2 | C34H33NO4S
reactant | sodium hydride | 2.43 mmol, 97 mg | [H-].[Na+]
reactant | (2-Bromoethoxymethyl)benzene | 3.24 mmol, 0.53 ml | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | Ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 4-(2-benzyloxyethyl)-5-(2,4-bisbenzyloxyphenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 1.21 g, yield 87% | C(C1=CC=CC=C1)OCCN1C2=C(C(=C1C1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1CCCCC1)SC(=C2)C(=O)OC | C43H43NO5S
